US07598257B2
Sodium hydride (9.6 mg, 0.00040 mol) was added to a solution of 3-phenyl-3-[4-(7-[2-(tri-methylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propan-1-ol (120 mg, 0.00027 mol) in DMF (3 mL, 0.04 mol) and the mixture was cooled to 0° C. The reaction was stirred for 20 min and methyl iodide (22 μL, 0.00035 mol) was added. The reaction was allowed to warm to room temperature and stirred overnight. The reaction was partitioned between water and EtOAc. The organic layer was washed with saturated NaCl, dried over MgSO4, filtered and concentrated to give 4-[1-(3-methoxy-1-phenylpropyl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine (100 mg, 88%) as a semisolid. ni/z=464 (M+1).

reactant | Sodium hydride | 0.00040 mol, 9.6 mg | [H-].[Na+]
reactant | 3-phenyl-3-[4-(7-[2-(tri-methylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propan-1-ol | 0.00027 mol, 120 mg | C1(=CC=CC=C1)C(CCO)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C24H31N5O2Si
reactant | DMF | 0.04 mol, 3 mL | CN(C)C=O | C3H7NO
reactant | methyl iodide | 0.00035 mol, 22 μL | CI | CH3I
product | 4-[1-(3-methoxy-1-phenylpropyl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | 100 mg, 88% | COCCC(C1=CC=CC=C1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C25H33N5O2Si
